US08212045B2
To a solution of 2-methylpyridin-3-ol (0.96 g, 8.8 mmol) in DMF (10 mL) cooled to 0° C. was added NaH (0.35 g, 8.8 mmol) in portions and the reaction warmed to ambient temperature. To this mixture was added 5-bromo-3-nitropicolinonitrile (2.0 g, 8.8 mmol) and the reaction stirred over night at ambient temperature. To the reaction was added thiophenol (0.96 g, 8.8 mmol) and the reaction cooled to 0° C. NaH (0.35 g, 8.8 mmol) was added and the reaction warmed to ambient temperature and the reaction stirred at ambient temperature overnight. The reaction was poured into water (1000 mL) and the aqueous layer was extracted with ether (3×100 mL). The organics were washed with 1N NaOH (100 mL), water (2×100 mL) brine (100 mL), dried over MgSO4 and concentrated in vacuo to give 5-phenylthio-3-(2-methylpyridin-3-yloxy)picolinonitrile (2.8 g, 8.8 mmol, 100%) as a solid.

reactant | 2-methylpyridin-3-ol | 8.8 mmol, 0.96 g | CC1=NC=CC=C1O | C6H7NO
reactant | NaH | 8.8 mmol, 0.35 g | [H-].[Na+]
reactant | 5-bromo-3-nitropicolinonitrile | 8.8 mmol, 2.0 g | BrC=1C=C(C(=NC1)C#N)[N+](=O)[O-] | C6H2BrN3O2
reactant | thiophenol | 8.8 mmol, 0.96 g | C1(=CC=CC=C1)S | C6H6S
reactant | NaH | 8.8 mmol, 0.35 g | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 1000 mL | O | H2O
product | 5-phenylthio-3-(2-methylpyridin-3-yloxy)picolinonitrile | 8.8 mmol, 2.8 g, 100% | C1(=CC=CC=C1)SC=1C=C(C(=NC1)C#N)OC=1C(=NC=CC1)C | C18H13N3OS
